US08703797B2
2-Hydrazinyl-4-isopropylquinoline:
A solution of 2-chloro-4-isopropylquinoline (1.80 g, 8.8 mmol) in NH2NH2 was reacted as outlined in Scheme 1 above to give the desired title compound. Spectroscopic data: 1H NMR (300 MHz, CDCl3) δ ppm 1.41 (d, J=6.74 Hz, 6 H) 3.51-3.76 (m, 1 H) 7.20-7.35 (m, 1 H) 7.44-7.60 (m, 2 H) 7.61-7.79 (m, 1 H) 7.84-8.06 (m, 1 H).

reactant | 2-chloro-4-isopropylquinoline | 8.8 mmol, 1.80 g | ClC1=NC2=CC=CC=C2C(=C1)C(C)C | C12H12ClN
reactant | NH2NH2 | NN | H4N2
product | 2-Hydrazinyl-4-isopropylquinoline | N(N)C1=NC2=CC=CC=C2C(=C1)C(C)C | C12H15N3
